### PR TITLE
[Merged by Bors] - feat(SimpleGraph): `cycleGraph.cycle` is a cycle

### PR DESCRIPTION
**Pull request by vlad902**
(A follow-up PR will show that `cycleGraph.cycle` is also hamiltonian.)

---

- [x] depends on: #35360
- [x] depends on: #34766
- [x] depends on: #34796

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 1]
```diff
@@ -163,9 +167,79 @@ private theorem cycleGraph_EulerianCircuit_cons_length (n : ℕ) : ∀ m : Fin (
     simp only [Walk.length_cons]
     rw [cycleGraph_EulerianCircuit_cons_length n]
 
-theorem cycleGraph_EulerianCircuit_length {n : ℕ} :
+variable {n : ℕ}
+
+@[simp, grind =]
+theorem cycleGraph_EulerianCircuit_length :
     (cycleGraph_EulerianCircuit n).length = n + 3 := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]:
```suggestion
theorem cycleGraph_EulerianCircuit_length : (cycleGraph_EulerianCircuit n).length = n + 3 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 2]
```diff
@@ -163,9 +167,78 @@ private theorem cycleGraph_EulerianCircuit_cons_length (n : ℕ) : ∀ m : Fin (
...
+      · have : x = y + 1 := by grind [Fin.sub_val_of_le]
+        subst this
+        exact p.isChain_adj_support.getElem _ _ |>.symm
+      · rw [Fin.coe_sub_iff_lt.mpr hle] at hab
+        simp_rw [show x = n - 1 by lia, show y = 0 by lia, Fin.succ_mk, show n - 1 + 1 = n by lia]
+        simp [← hp₂, p.adj_snd hp₁.not_nil]
+    · have hlen : p.tail.support.length = n := by
+        grind [length_tail_add_one, not_nil_iff_lt_length]
+      have (m : Fin n) : p.support[m.succ]'(by grind) = p.tail.support[m] := by
+        simp [support_tail_of_not_nil _ hp₁.not_nil]
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]:
```suggestion
        simp [p.support_tail_of_not_nil hp₁.not_nil]
```

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean [hunk 3]
```diff
@@ -163,9 +167,78 @@ private theorem cycleGraph_EulerianCircuit_cons_length (n : ℕ) : ∀ m : Fin (
...
+      simp_rw [this]
+      have := IsPath.mk' <| (support_tail_of_not_nil _ hp₁.not_nil) ▸ hp₁.support_nodup
+      exact hlen ▸ (isPath_iff_injective_get_support _ |>.mp this)
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]:
```suggestion
      exact hlen ▸ (isPath_iff_injective_get_support _ |>.mp p.isPath_tail)
```

File: Mathlib/Combinatorics/SimpleGraph/Circulant.lean
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/SimpleGraph/Circulant.lean]: This is misnamed - there should be no underscore in the name of a `def`. I propose renaming it and everything that refers to it (with deprecation) before adding more misnamed theorems.

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Circulant.lean]: #35360

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by ocfnash** [comment]
bors merge
